US06664291B2
4-(4-Amino-2,6-dimethyl-phenoxy)-2-(4-fluoro-benzenesulfonyl)-phenol
To a solution of 4-(2,6-dimethyl-4-nitro-phenoxy)-2-(4-fluoro-benzenesulfonyl)-phenol (11.4 g, 27.4 mmol) in a mixture of ethanol (200 mL) and EtOAc (200 mL) was added catalyst (10% Pd/C, 2.29 g). The mixture was hydrogenated under 45 psi at RT for 4 h. The mixture was filtered through Celite and concentrated to give the title compound of Step D (10.5 g) as a tan solid. The title product of Step D was used in the next step with no further purification. MS (APCl−) Calc.:387.1, Found: 386.2 (M−1).

reactant | 4-(2,6-dimethyl-4-nitro-phenoxy)-2-(4-fluoro-benzenesulfonyl)-phenol | 27.4 mmol, 11.4 g | CC1=C(OC2=CC(=C(C=C2)O)S(=O)(=O)C2=CC=C(C=C2)F)C(=CC(=C1)[N+](=O)[O-])C | C20H16FNO6S
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 4-(4-Amino-2,6-dimethyl-phenoxy)-2-(4-fluoro-benzenesulfonyl)-phenol | 10.5 g | NC1=CC(=C(OC2=CC(=C(C=C2)O)S(=O)(=O)C2=CC=C(C=C2)F)C(=C1)C)C | C20H18FNO4S
